US07288544B2
5) Synthesis of 6-(2-azidoethoxy) methyl-4-(3-chlorophenyl)-5-(3,3-diphenylpropylcarbamoyl)-2-methyl-1,4-dihydropyridine-3-carboxylic acid (2-cyanoethyl) ester:
270 mg (0.430 mmol) of 6-(2-chloroethoxy) methyl-4-(3-chlorophenyl)-5-(3,3-diphenylpropylcarbamoyl)-2-methyl-1,4-dihydropyridine-3-carboxylic acid (2-cyanoethyl) ester was dissolved in 3 ml of 2-propanol. 600 mg (0.400 mmol) of sodium iodide was added thereto and stirred at 60° C. for 20 hours. After the solvent was evaporated under reduced pressure, sodium iodide separated by adding dichloromethane was taken by filtration. The filtrate was concentrated under reduced pressure and stirred together with 33.0 mg (0.490 mmol) of sodium azide at 50° C. for 6 hours in 2 ml of DMF After adding ethyl acetate, the reaction mixture was washed with water and saturated aqueous sodium chloride solution. The organic layer was dried over anhydrous magnesium sulfate and then concentrated under reduced pressure to obtain the title compound.

reactant | 6-(2-chloroethoxy) methyl-4-(3-chlorophenyl)-5-(3,3-diphenylpropylcarbamoyl)-2-methyl-1,4-dihydropyridine-3-carboxylic acid (2-cyanoethyl) ester | 0.430 mmol, 270 mg | C(#N)CCOC(=O)C1=C(NC(=C(C1C1=CC(=CC=C1)Cl)C(NCCC(C1=CC=CC=C1)C1=CC=CC=C1)=O)COCCCl)C | C35H35Cl2N3O4
reactant | sodium iodide | 0.400 mmol, 600 mg | [I-].[Na+]
reactant | sodium azide | 0.490 mmol, 33.0 mg | [N-]=[N+]=[N-].[Na+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | 2-propanol | 3 ml | CC(C)O | C3H8O
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
product | 6-(2-azidoethoxy) methyl-4-(3-chlorophenyl)-5-(3,3-diphenylpropylcarbamoyl)-2-methyl-1,4-dihydropyridine-3-carboxylic acid (2-cyanoethyl) ester | C(#N)CCOC(=O)C1=C(NC(=C(C1C1=CC(=CC=C1)Cl)C(NCCC(C1=CC=CC=C1)C1=CC=CC=C1)=O)COCCN=[N+]=[N-])C | C35H35ClN6O4
